US08314100B2
1. a) 2-Amino-6,7-dichloro-3-methoxyquinoxaline
To 2-amino-3,6,7-tri chloroquinoxaline (1.54 g, 6.20 mmol) dissolved in tetrahydrofuran (40 ml), 25 wt % sodium methoxide (2.01 g, 9.30 mmol) in methanol was added at room temperature and stirred further at room temperature for 1 hour. The resulting mixture was concentrated under the reduced pressure to remove the solvent. The product was extracted with ethyl acetate and the organic layer was washed with water and dried over MgSO4. After concentration under the reduced pressure, the crude product was purified by SiO2 column chromatography. Extraction of the residue with a n-hexane:ethyl acetate (2:1) mixture and concentration gave 1.21 g of the titled compound (yield, 80%).

reactant | 2-amino-3,6,7-tri chloroquinoxaline | 6.20 mmol, 1.54 g | NC1=NC2=CC(=C(C=C2N=C1Cl)Cl)Cl | C8H4Cl3N3
reactant | sodium methoxide | 9.30 mmol, 2.01 g | C[O-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2-Amino-6,7-dichloro-3-methoxyquinoxaline | 1.21 g, 80% | NC1=NC2=CC(=C(C=C2N=C1OC)Cl)Cl | C9H7Cl2N3O
